US07589232B2
Step c) Formation of (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]methyl}phenoxy)acetic acid
The titled compound was prepared following the procedure F using methyl (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]methyl}phenoxy)acetate and NaOH 1 N in the presence of MeOH/THF as a colorless oil (86%). 1H NMR (MeOD, 300 MHz) δ 7.39-7.47 (m, 4H), 7.10-7.20 (m, 6H), 6.91 (m, 2H), 4.65 (s, 1H), 4.64 (s, 1H), 4.54 (m, 4H), 2.63 (t, J=7.6 Hz, 2H), 2.45 (m, 2H), 1.62 (m, 4H), 1.23-1.40 (m, 6H), 0.90-0.97 (m, 6H), M− (ESI): 524.4; M+ (ESI): 526.4. HPLC, Rt: 5.47 min (Purity: 98.7%).

reactant | methyl (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]methyl}phenoxy)acetate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCCCC)=O)CC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C35H41NO4
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | MeOH THF | CO.C1CCOC1
product | (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]methyl}phenoxy)acetic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCCCC)=O)CC2=CC=C(OCC(=O)O)C=C2)C=C1 | C34H39NO4
